US05362706
1[[(4-chloro-2-fluoro-5-isopropoxyphenyl)amino]carbonyl]-1,2,3,6-tetrahydro-2-pyridinecarboxylic acid-methyl ester (Compound 1.2).
To a stirred solution of 5,65 g (0,04 moles) of 1,2,3,6-tetra-hydro- 2-pyridinecarboxylic acid methyl ester in 75 ml of dry toluene are added dropwise without cooling 9,2 g (0,04 moles) of 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate, dissolved in 200 ml of dry toluene.

reactant | 1,2,3,6-tetra-hydro- 2-pyridinecarboxylic acid methyl ester | 0,04 moles, 5,65 g | COC(=O)C1NCC=CC1 | C7H11NO2
reactant | 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate | 0,04 moles, 9,2 g | ClC1=CC(=C(C=C1OC(C)C)N=C=O)F | C10H9ClFNO2
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1[[(4-chloro-2-fluoro-5-isopropoxyphenyl)amino]carbonyl]-1,2,3,6-tetrahydro-2-pyridinecarboxylic acid-methyl ester | COC(=O)C1N(CC=CC1)C(=O)NC1=C(C=C(C(=C1)OC(C)C)Cl)F | C17H20ClFN2O4
